US06734301B2
1-(8-bromo-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-2,2,2-trifluoro-1-ethanone
A solution of 1-[8-bromo-11-(2,2,2-trifluoroacetyl)-1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indol-3-yl]-2,2,2-trifluoro-1-ethanone (105 mg, 0.23 mmol) in methanol (3 mL) is treated with 1M sodium hydroxide (1 mL, 1 mmol). After 30 min, the reaction is diluted with water (15 mL) and extracted twice with dichloromethane (20 mL). The combined organics are washed with brine (15 mL), dried over MgSO4, filtered, and concentrated to give a crude solid. This material is recrystallized from ethyl acetate/heptane to afford 48 mg of a white solid. IR (drift) 1666, 1508, 1464, 1426, 1282, 1248, 1211, 1201, 1181, 1130, 1060, 1043, 956, 939, 757 cm−1.

reactant | 1-[8-bromo-11-(2,2,2-trifluoroacetyl)-1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indol-3-yl]-2,2,2-trifluoro-1-ethanone | 0.23 mmol, 105 mg | BrC=1C=CC=2C(=C3N(C2C1)CCN(CC3)C(C(F)(F)F)=O)C(C(F)(F)F)=O | C16H11BrF6N2O2
reactant | sodium hydroxide | 1 mmol, 1M, 1 mL | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | 1-(8-bromo-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-2,2,2-trifluoro-1-ethanone | 48 mg | BrC=1C=CC=2C(=C3N(C2C1)CCNCC3)C(C(F)(F)F)=O | C14H12BrF3N2O
